US08404859B2
Preparation of 6,6-Diethoxy-2-methyl-hex-4-yn-3-one
6,6-Diethoxy-2-methyl-hex-4-yn-3-ol (3.18 g, 18.46 mmol) was dissolved in dichloromethane (100 ml) and treated with activated MnO2 (30 g) at rt for 15 h. The reaction mixture was filtered through a plug of celite and Na2SO4. The filtrated was concentrated under reduced pressure and purified by flash chromatography with 0-15% EtOAc in hexane to afford the desired product (1.32 g, 36% yield).

reactant | 6,6-Diethoxy-2-methyl-hex-4-yn-3-ol | 18.46 mmol, 3.18 g | C(C)OC(C#CC(C(C)C)O)OCC | C11H20O3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | MnO2 | 30 g | O=[Mn]=O
product | 6,6-Diethoxy-2-methyl-hex-4-yn-3-one | 1.32 g, 36% yield | C(C)OC(C#CC(C(C)C)=O)OCC | C11H18O3
